US08022062B2
Heat the mixture of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (310 mg, 0.807 mmol) and potassium hydroxide (1.45 g, 25.83 mmol) in methanol (5 mL) at 50° C. for 3 h. Cool the reaction mixture to room temperature and dilute with saturated aqueous NH4Cl and EtOAc. Separate the layers and extract the aqueous layer three times with EtOAc. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Dissolve the crude 3-tert-butoxycarbonyl-7-chloro-6-mercapto-2,3,4,5-tetrahydro-1H-benzo[d]azepine in anhydrous DMF (2 mL) and cool at 0° C. Add sodium hydride (21 mg, 0.888 mmol) and a solution of (R)-1-[4-(1-bromoethyl)-phenyl]-3,3-dimethylbutan-1-one {prepared by the mixture of (S)-1-[4-(1-hydroxyethyl)-phenyl]-3,3-dimethylbutan-1-one (213 mg, 0.969 mmol), triphenylphosphine (296 mg, 1.130 mmol) and NBS (201 mg, 1.13 mmol) in anhydrous THF (5 mL) at 0° C. and then room temperature}. Stir the mixture at 0° C. for 30 min and quench with water. Dilute with EtOAc and extract the aqueous layer three times with EtOAc. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane/EtOAc (85:15) to give (S)-3-tert-butoxycarbonyl-7-chloro-6-{1-[4-(3,3-dimethylbutyryl)-phenyl]-ethylthio}-2,3,4,5-tetrahydro-1H-benzo[d]azepine as yellow oil (197 mg, 47%).

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.807 mmol, 310 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | potassium hydroxide | 25.83 mmol, 1.45 g | [OH-].[K+]
reactant | sodium hydride | 0.888 mmol, 21 mg | [H-].[Na+]
reactant | (R)-1-[4-(1-bromoethyl)-phenyl]-3,3-dimethylbutan-1-one | Br[C@H](C)C1=CC=C(C=C1)C(CC(C)(C)C)=O | C14H19BrO
reactant | (S)-1-[4-(1-hydroxyethyl)-phenyl]-3,3-dimethylbutan-1-one | 0.969 mmol, 213 mg | O[C@@H](C)C1=CC=C(C=C1)C(CC(C)(C)C)=O | C14H20O2
reactant | triphenylphosphine | 1.130 mmol, 296 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NBS | 1.13 mmol, 201 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | methanol | 5 mL | CO | CH4O
solvent | NH4Cl | [NH4+].[Cl-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-3-tert-butoxycarbonyl-7-chloro-6-{1-[4-(3,3-dimethylbutyryl)-phenyl]-ethylthio}-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 197 mg, 47% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)S[C@@H](C)C2=CC=C(C=C2)C(CC(C)(C)C)=O | C29H38ClNO3S
